US07297713B2
N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]-2-methylacrylamide
The title compound was prepared according to the general procedure for acylation of 5-(4-aminophenyl)-1-methyl-1H-pyrrole-2-carbonitrile using 2-methyl-acryloyl chloride (53 μL, 0.55 mmol) to provide N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]-2-methylacrylamide (0.037 g).

reactant | 5-(4-aminophenyl)-1-methyl-1H-pyrrole-2-carbonitrile | NC1=CC=C(C=C1)C1=CC=C(N1C)C#N | C12H11N3
reactant | 2-methyl-acryloyl chloride | 0.55 mmol, 53 μL | CC(C(=O)Cl)=C | C4H5ClO
product | N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]-2-methylacrylamide | 0.037 g | C(#N)C1=CC=C(N1C)C1=CC=C(C=C1)NC(C(=C)C)=O | C16H15N3O
